US09334279B2
To a 2 dram vial equipped with a stir bar was added 2-(4,6-dichloropyridin-2-yl)thiazole (50 mg, 0.22 mmol), 6-Methyl-2-phenyl-1,3,6,2-dioxazaborocane-4,8-dione (“phenylboronic acid MIDA ester”, 50 mg, 0.22 mmol), Pd(dppf)Cl2 (8 mg, 11 μmol) and K3PO4 (344 mg, 1.62 mmol). The vial was capped with a septum screwcap and then placed under N2 atmosphere. To the vial was added THF (1 mL) and water (0.5 mL). The mixture was placed in a 60° C. oil bath with stirring for 16 h. The reaction mixture was diluted with EtOAc (5 mL) and brine (1 mL). The mixture was shaken; the aq. phase was decanted away via pipet. The organic phase was dried over MgSO4; filtered; and the filtrate was concentrated in vacuo to afford a dark amber solid. This material was subjected to silica gel chromatography to afford 2-(4-chloro-6-phenylpyridin-2-yl)thiazole as a yellow solid (38 mg, 64%). 1H-NMR (400 MHz, CDCl3) δ 8.16 (d, J=1.8 Hz, 1H), 8.14-8.08 (m, 2H), 7.97 (d, J=3.0 Hz, 1H), 7.77 (d, J=1.8 Hz, 1H), 7.58-7.45 (m, 4H).

reactant | 2-(4,6-dichloropyridin-2-yl)thiazole | 0.22 mmol, 50 mg | ClC1=CC(=NC(=C1)Cl)C=1SC=CN1 | C8H4Cl2N2S
reactant | 6-Methyl-2-phenyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.22 mmol, 50 mg | CN1CC(OB(OC(C1)=O)C1=CC=CC=C1)=O | C11H12BNO4
reactant | K3PO4 | 1.62 mmol, 344 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | brine | 1 mL | [Cl-].[Na+].O
catalyst | Pd(dppf)Cl2 | 11 μmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.5 mL | O | H2O
product | 2-(4-chloro-6-phenylpyridin-2-yl)thiazole | 38 mg, 64% | ClC1=CC(=NC(=C1)C1=CC=CC=C1)C=1SC=CN1 | C14H9ClN2S
